US04845118
1-tert.-butoxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole
1.1 g (4.0 mmol) of 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole were dissolved in 15 ml of anhydrous DMF, and 0.6 ml of triethylamine and 0.96 g (about 4.5 mmol) of di-tert.-butyl dicarbonate were added. After stirring at room temperature for 2 hours a further 0.32 g (1.5 mmol) of di-tert.-butyl dicarbonate was added.

reactant | 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 4.0 mmol, 1.1 g | COC1=CC(=NC=C1)CSC1=NC=2C(N1)=CSC2 | C12H11N3OS2
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert.-butyl dicarbonate | about 4.5 mmol, 0.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert.-butyl dicarbonate | 1.5 mmol, 0.32 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-tert.-butoxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | C(C)(C)(C)OC(=O)N1C(=NC=2C1=CSC2)SCC2=NC=CC(=C2)OC | C17H19N3O3S2
